US09079853B2
5-methyl-1-propylindoline-2,3-dione
Was prepared in an analogous manner to 1-propylindoline-2,3-dione using 5-methyl isatin (purchased from Fisher Scientific) and 1-bromo-propane (purchase from Fisher Scientific). 1H NMR δ 7.41 (m, 2H), 6.80 (d, 1H), 3.67 (t, 2H), 2.33 (s, 3H), 1.72 (m, 2H), 0.99 (t, 3H).

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | 5-methyl isatin | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
reactant | 1-bromo-propane | BrCCC | C3H7Br
product | 5-methyl-1-propylindoline-2,3-dione | CC=1C=C2C(C(N(C2=CC1)CCC)=O)=O | C12H13NO2
